US05620997
2-[2-(2-Pyridinyl)ethyl]-[1,3]dioxolo[4.5-g] isothiazolo[4,5-c]quinolin-3(2H)-one
To 4.1 g (0.012 mol) of 8-mercapto-[1,3]dioxolo [4,5-g]quinoline-7-carboxylic acid (2-pyridin-2-yl-ethyl)-amide (from Preparation 34) and 5 mL (0.035 mol) of triethylamine in 750 mL of methanol was added 2.95 g (0.012 mol) of iodine in 100 mL of methanol. The mixture was heated at reflux for 2 hours, cooled, and then concentrated to an oil. The residue was slurried in water, and the solid was collected and recrystallized in ethanol to give 3.5 g of the title compound, mp 200°-201° C.

reactant | 8-mercapto-[1,3]dioxolo [4,5-g]quinoline-7-carboxylic acid (2-pyridin-2-yl-ethyl)-amide | 0.012 mol, 4.1 g | N1=C(C=CC=C1)CCNC(=O)C=1C=NC=2C=C3C(=CC2C1S)OCO3 | C18H15N3O3S
reactant | triethylamine | 0.035 mol, 5 mL | C(C)N(CC)CC | C6H15N
reactant | iodine | 0.012 mol, 2.95 g | II | I2
solvent | methanol | 750 mL | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
product | 2-[2-(2-Pyridinyl)ethyl]-[1,3]dioxolo[4.5-g] isothiazolo[4,5-c]quinolin-3(2H)-one | 3.5 g | N1=C(C=CC=C1)CCN1SC2=C(C=NC=3C=C4C(=CC23)OCO4)C1=O | C18H13N3O3S
